US07728176B2
Tri-n-butylphosphine is reacted with hydrochloric acid in the presence of sodium tetraphenylborate to produce tri-n-butylphosphonium tetraphenylborate (53% yield) (see Nonpatent Document 6).

reactant | Tri-n-butylphosphine | C(CCC)P(CCCC)CCCC | C12H27P
reactant | hydrochloric acid | Cl | ClH
reactant | sodium tetraphenylborate | C1(=CC=CC=C1)[B-](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.[Na+]
product | tri-n-butylphosphonium tetraphenylborate | 53% yield | C1(=CC=CC=C1)[B-](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.C(CCC)[PH+](CCCC)CCCC | InChI=1S/C24H20B.C12H27P/c1-5-13-21(14-6-1)25(22-15-7-2-8-16-22,23-17-9-3-10-18-23)24-19-11-4-12-20-24;1-4-7-10-13(11-8-5-2)12-9-6-3/h1-20H;4-12H2,1-3H3/q-1;/p+1
